US06316482B1
To a solution of 4-(2-tert-butyldiphenylsiloxymethyl-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (296 mg) in dry tetrahydrofuran (10 ml) was added tetrabutylammonium fluoride (173 mg) in ice water bath under nitrogen and the mixture was stirred at the same temperature for 1 hour. The reaction mixture was concentrated in vacuo and the residue was dissolved in chloroform. The solution was washed with water and brine and dried over magnesium sulfate. The solvent was evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (chloroform-methanol=10:1) to give 4-(2-hydroxymethyl-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (200 mg) as a powder.

reactant | 4-(2-tert-butyldiphenylsiloxymethyl-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 296 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1=NC2=C(N1)C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C52H62N6O6Si
reactant | tetrabutylammonium fluoride | 173 mg | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(2-hydroxymethyl-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 200 mg | OCC1=NC2=C(N1)C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C36H44N6O6
